US08314091B2
B: Ethyl 5-(hydrazinecarbonyl)pyrazine-2-carboxylate
A mixture of diethyl pyrazine-2,5-dicarboxylate (1.75 g, 7.81 mmol) and ethanol (15 mL) was heated to 75° C. to obtain a homogeneous solution. After cooling to room temperature, a solution of hydrazine monohydrate (0.281 g, 7.03 mmol) in ethanol (3.5 mL) was added to the solution dropwise over 4 hours. After stirring at room temperature overnight, a solid had precipitated out of the reaction mixture. The solid was collected by filtration and dried under vacuum to give the title compound (1.05 g).

reactant | diethyl pyrazine-2,5-dicarboxylate | 7.81 mmol, 1.75 g | N1=C(C=NC(=C1)C(=O)OCC)C(=O)OCC | C10H12N2O4
reactant | hydrazine monohydrate | 7.03 mmol, 0.281 g | O.NN
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | Ethyl 5-(hydrazinecarbonyl)pyrazine-2-carboxylate | 1.05 g | N(N)C(=O)C=1N=CC(=NC1)C(=O)OCC | C8H10N4O3
